Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Recurrent chest pain 
 
Major Surgical or Invasive Procedure:
___ Cardiac Cath
___ Coronary Artery Bypass Grafting x 4 (Coronary artery 
bypass graft times four, left internal mammary artery to left 
anterior descending, reverse saphenous vein graft to posterior 
descending artery, reverse saphenous vein graft to obtuse 
marginal and reverse saphenous vein graft to diagonal).

 
History of Present Illness:
___ M with PMH of hyperlipidemia and CAD s/p ostial and 
proximal DES to LAD at ___ in ___ and DES to the LAD at D1 on 
___ who presents with recurrent chest pain and L heart 
cath on ___ showing 95% in-stent restenosis in LAD and 
extensive multi-vessel disease. He is admitted for CABG. 

Due to angina, pt underwent outpatient cardiac catheterization 
(right radial) on ___ that revealed: LM normal; LAD long 
segment of previously deployed stent extending back to
the ostium with a 90% ostial and a 60% diffuse ISR, tandem 50%
stenoses in the mid segment, 100% distal occlusion filling via
collaterals; Cx large, dominant vessel, 40% ostial, 70% OM1, 50% 
Om2, 80% left PDA; RCA small, non dominant vessel, 70% diffuse 
disease and distal occlusion.

Cardiac surgery consulted. Seen by Dr. ___ felt 
CABG was a reasonable option but had some concerns about the 
quality of the mid LAD as a target. Regardless, patient felt he 
could not undergo CABG at the time due to financial concerns and 
elected for stent placement. Pt had a successful DES to the LAD 
with a 2.75 x 32mm Promus Premier DES on ___. The D1 
occluded with the PCI and noted to fill via collaterals. 

Pt had initial improvement in his angina after the stenting but 
then started to have exertional angina in ___. 
Currently he reports chest discomfort that occurs with activity 
such as walking one block or carrying something more than 5 lbs. 
He has DOE and palpitations associated with his anginal 
episodes. Symptoms resolve with rest or nitroglycerin. For the 
past month, he has been having chest discomfort ___ times per 
night that wakes him from sleep. He takes nitroglycerin or gets 
up, and it resolves.  

On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. He denies 
recent fevers, chills or rigors. He denies exertional buttock or 
calf pain. All of the other review of systems were negative.  
 
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, syncope or 
presyncope. 
 
Past Medical History:
1. Hypercholesterolemia
2. CAD. ___: stenting of ostial and proximal LAD with two
cypher stents.
3. Ventricular tachycardia
4. Obesity
5. Wisdom teeth extraction
6. Bladder cancer s/p surgery ___

___: Procedures: PTCA/stent of proximal LAD for in-stent 
restenosis. Indications: Angina pectoris, CAD, known in-stent 
restenosis from recent cath. 

On ___ he underwent outpatient cardiac catheterization 
(right radial). Angiography revealed:
-LM normal
-LAD long segment of previously deployed stent extending back to
the ostium with a 90% ostial and a 60% diffuse ISR. Tandem 50%
stenoses in the mid segment. 100% distal occlusion, filling via
collaterals
-Cx large, dominant vessel. 40% ostial. 70% OM1, 50% Om2, 80%
left PDA
-RCA: small, non dominant. 70% diffuse disease and distal
occlusion.
 
Social History:
___
Family History:
Adopted
 
Physical Exam:
Admission Physical Exam:
VS: 98.0, 141/82, 58, 96% RA 
GENERAL: WDWN M in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.   
NECK: Supple with no JVD.  
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: CTAB.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. 2+ radial, DP, and ___ pulses.  
SKIN: No stasis dermatitis, ulcers, or scars.

 
Pertinent Results:
STUDIES:
Cath ___: Left main normal. LAD long stent back to left 
main. 95% mid segment of stents. jailed ___ diag 100% ostially 
but fills collaterally.
LCX: OM1 70% proximal. OM2 40% proximal.Distal  CX & L-PDA 80%.
RCA-small and not visualized 
.
Intraoperative (TEE)Echo ___
Conclusions  
PREBYPASS:
Apical and mid anterior anteroseptal and anterolateral HK 
consistent with LAD ischemia. The remaining left ventricular 
segments contract normally. Right ventricular chamber size and 
free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no pericardial effusion. Normal coronary sinus. No clot 
observed in the ___. Intact interatrial septum. Mild diffuse 
desc thoracic aortic atherosclerosis. Diastolic dysfunction 
consistent with impaired relaxation.

POSTBYPASS:
Improved LV systolic function, otherwise unchanged. No new wall 
motion abnormalities after chest closure. No dissection seen 
after removal of the aortic cannula. 
All findings discussed with the surgical team.   
.
TTE ___
Conclusions  
The left atrium is elongated. The right atrium is moderately 
dilated. There is mild symmetric left ventricular hypertrophy 
with normal cavity size. There is mild regional left ventricular 
systolic dysfunction with hypokinesis of the mid to distal 
anterior septum, distal anterior wall, apical lateral wall, and 
apex proper. The remaining segments contract normally (LVEF = 
45%). There is no ventricular septal defect. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not 
present. No aortic regurgitation is seen. The mitral valve 
appears structurally normal with trivial mitral regurgitation. 
There is no mitral valve prolapse. There is mild pulmonary 
artery systolic hypertension. There is no pericardial effusion 
(a fat pad is present).

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and mild regional systolic dysfunction c/w 
CAD (mid-LAD distribution). Mild pulmonary hypertension.   
.
PA/LAT CXR ___:
IMPRESSION: No previous images.  The heart is at the upper 
limits of normal in size and there is no evidence of vascular 
congestion, pleural effusion, or acute focal pneumonia. 
.
PA/LAT CXR ___/*****
**********

LABS:

___ 04:47AM BLOOD WBC-9.7 RBC-3.01* Hgb-9.2* Hct-27.6* 
MCV-92 MCH-30.6 MCHC-33.3 RDW-12.9 RDWSD-42.5 Plt ___
___ 05:08AM BLOOD WBC-11.2* RBC-3.14* Hgb-9.7* Hct-28.5* 
MCV-91 MCH-30.9 MCHC-34.0 RDW-12.9 RDWSD-42.2 Plt ___
___ 05:28AM BLOOD WBC-12.7* RBC-3.07* Hgb-9.4* Hct-27.9* 
MCV-91 MCH-30.6 MCHC-33.7 RDW-12.8 RDWSD-41.6 Plt ___
___ 01:01PM BLOOD Hct-30.9*
___ 04:47AM BLOOD Glucose-108* UreaN-14 Creat-0.7 Na-139 
K-4.2 Cl-102 HCO3-26 AnGap-15
___ 05:08AM BLOOD Glucose-116* UreaN-16 Creat-0.8 Na-135 
K-4.0 Cl-101 HCO3-30 AnGap-8
___ 05:28AM BLOOD Glucose-112* UreaN-13 Creat-0.8 Na-134 
K-4.1 Cl-101 HCO3-28 AnGap-9
___ 01:01PM BLOOD Glucose-125* UreaN-11 Creat-0.9 Na-136 
K-3.9 Cl-100 HCO3-26 AnGap-14
___ 03:04AM BLOOD Glucose-107* UreaN-11 Creat-0.8 Na-137 
K-4.1 Cl-105 HCO3-24 AnGap-12
 
Brief Hospital Course:
Mr. ___ was admitted following his cardiac cath which 
revealed multivessel disease, including in stent restenosis of 
the LAD stent placed in ___. Upon admission, he was medically 
managed and underwent the appropriate pre-operative work-up. On 
___, he was brought to the operating room where he underwent 
a coronary artery bypass graft x 4. Please see operative note 
for surgical details. Following surgery he was transferred to 
the CVICU for invasive monitoring in stable condition. Later 
this day he was weaned from sedation, awoke neurologically 
intact and extubated.
POD 1 found the patient extubated, alert and oriented and 
breathing comfortably.  The patient was neurologically intact 
and hemodynamically stable, weaned from inotropic and 
vasopressor support. Beta blocker was initiated and the patient 
was gently diuresed toward the preoperative weight.  The patient 
was transferred to the telemetry floor for further recovery. 
Beta blockers were increased for tachycardia. Chest tubes and 
pacing wires were discontinued without complication. The patient 
was evaluated by the physical therapy service for assistance 
with strength and mobility. Low dose Lisinopril was added for EF 
35-45% at the time of discharge and is to be titrated by 
outpatient cardiologist, as well as close renal function 
monitoring with initiation of ACE-I. By the time of discharge on 
POD 4 the patient was ambulating freely, the wound was healing 
and pain was controlled with oral analgesics.  The patient was 
discharged home with visiting nurse services in good condition 
with appropriate follow up instructions.
 
Medications on Admission:
Medications at home:
Atenolol 25 mg Daily
Nitroglycerin 0.4 mg PRN
Crestor 40 mg Daily
Aspirin 325 mg Daily
Multivitamin 1 tablet Daily
Fish Oil 2,400 mg Daily
 
Discharge Medications:
1. Aspirin EC 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*100 Tablet Refills:*0
2. Multivitamins 1 TAB PO DAILY 
3. Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin [Crestor] 40 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
4. Acetaminophen 650 mg PO Q4H:PRN pain, fever 
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0
6. Metoprolol Tartrate 50 mg PO TID 
RX *metoprolol tartrate 50 mg 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0
7. OxycoDONE (Immediate Release)  ___ mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth Q 4 hours Disp #*60 
Capsule Refills:*0
8. Potassium Chloride 20 mEq PO DAILY Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth daily Disp 
#*7 Tablet Refills:*0
9. Ranitidine 150 mg PO BID 
RX *ranitidine HCl [Acid Control (ranitidine)] 150 mg 1 
tablet(s) by mouth twice a day Disp #*60 Tablet Refills:*0
10. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*60 Capsule Refills:*0
11. Ascorbic Acid ___ mg PO DAILY 
12. Furosemide 40 mg PO DAILY Duration: 7 Days 
RX *furosemide [Lasix] 40 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0
13. Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease, s/p CABG
History of Coronary Artery PCI and stenting
Hypercholesterolemia
History of Ventricular tachycardia
Obesity
 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with steady gait
Incisional pain managed with Oxycodone
Incisions: 
Sternal - healing well, no erythema or drainage 
Leg Left - healing well, no erythema or drainage. 
1+ lower extremity edema 
 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage
Please NO lotions, cream, powder, or ointments to incisions 
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
No lifting more than 10 pounds for 10 weeks
Please call with any questions or concerns ___
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___